US06498172B1
(3-{[(5-Pyridin-2-yl-thiophene-2-sulfonyl)-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
To a solution of {3-[(4-thiazol-2-yl-benzylamino)-methyl-]-phenoxy}-acetic acid tert butyl ester (111 mg, 0.270 mmol), prepared in Step A of Example 13i, triethylamine (120 mg, 1.19 mmol) and dichloroethane (10 mL) was added 5-pyridin-2-yl-thiophene-2-sulfonyl chloride (77.2 mg, 0.297 mmol). The reaction was stirred for 72 h and additional 5 pyridin-2-yl-thiophene-2-sulphonyl chloride (38.5 mg) was added. The reaction was stirred for an additional 48 h. The organic solution was washed sequentially with 5.5% HCl, water, saturated sodium bicarbonate solution, and brine. The organic solution was dried (MgSO4), filtered, and concentrated. Flash chromatography (CHCl3:MeOH 99:1) provided the title compound of Step A (58 mg). MS 633 (M+1).

reactant | {3-[(4-thiazol-2-yl-benzylamino)-methyl-]-phenoxy}-acetic acid tert butyl ester | 0.270 mmol, 111 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1SC=CN1)=O | C23H26N2O3S
reactant | triethylamine | 1.19 mmol, 120 mg | C(C)N(CC)CC | C6H15N
reactant | 5-pyridin-2-yl-thiophene-2-sulfonyl chloride | 0.297 mmol, 77.2 mg | N1=C(C=CC=C1)C1=CC=C(S1)S(=O)(=O)Cl | C9H6ClNO2S2
reactant | pyridin-2-yl-thiophene-2-sulphonyl chloride | 38.5 mg | N1=C(C=CC=C1)C1=C(SC=C1)S(=O)(=O)Cl | C9H6ClNO2S2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | (3-{[(5-Pyridin-2-yl-thiophene-2-sulfonyl)-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | 58 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C=1SC=CN1)S(=O)(=O)C=1SC(=CC1)C1=NC=CC=C1)=O | C32H31N3O5S3
